US05514691
3,4-Dimethoxy-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 3,4-dimethoxybenzenesulfonyl chloride according to the procedures described in Example 5. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 136°-138° C., yield 64 %.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 3,4-dimethoxybenzenesulfonyl chloride | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
product | 3,4-Dimethoxy-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 64 % | COC=1C=C(C=CC1OC)S(=O)(=O)NC1=C(C(=NO1)C)Br | C12H13BrN2O5S
